US08202858B2
4-Carboxymethyl-3-methyl-benzoic Acid Methyl Ester
Trifluoroacetic acid (15 ml) was added to a solution of 4-tert-butoxycarbonylmethyl-3-methyl-benzoic acid methyl ester from Example E32.1 (2.84 g, 10.7 mmol) in dichloromethane (15 ml). The mixture was stirred for 90 min at room temperature, concentrated in vacuo and azeotroped with toluene. The residue was recrystallised from EtOAc and hexane to yield the title compound (1.81 g, 81%).

reactant | Trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-tert-butoxycarbonylmethyl-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CC(=O)OC(C)(C)C)C)=O | C15H20O4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Carboxymethyl-3-methyl-benzoic Acid Methyl Ester | 1.81 g, 81% | COC(C1=CC(=C(C=C1)CC(=O)O)C)=O | C11H12O4
